US04204991
23.3 of t-butoxycarbonylisoleucine is dissolved in 200 ml of methylene chloride. 33.3 ml of N-methylmorpholine is added to the solution. The solution is cooled to -70° C. 13.1 ml of isobutylchloroformate is then added. The reaction mixture is warmed up to -15° C. and stirred for 5 minutes. The reaction mixture is again cooled to -70° C. 26.0 g of histidine methyl ester dihydrochloride is added to the reaction mixture. The reaction mixture is allowed to warm to room temperature, and then is stirred for 16 hours. The reaction mixture is extracted three times with 0.5 M potassium bisulfate and once with brine. The methylene chloride solution is dried over anhydrous sodium sulfate, filtered and stripped of of solvent. The residue is dissolved in 200 ml of ethyl ether. The ether solution is added to cold rapidly stirring Skellysolve B. The white precipitate is filtered and dried to afford the product t-butoxycarbonylisoleucylhistidine methyl ester.

reactant | t-butoxycarbonylisoleucine | C(C)(C)(C)OC(=O)N[C@@H]([C@@H](C)CC)C(=O)O | C11H21NO4
reactant | N-methylmorpholine | 33.3 ml | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 13.1 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | histidine methyl ester dihydrochloride | 26.0 g | Cl.Cl.COC([C@@H](N)CC1=CNC=N1)=O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | t-butoxycarbonylisoleucylhistidine methyl ester | COC([C@@H](NC([C@@H](NC(=O)OC(C)(C)C)[C@@H](C)CC)=O)CC1=CNC=N1)=O | C18H30N4O5
